US07858621B2
2-(6-tert-Butyl-2-chloro-pyridin-3-yloxy)-N-(3-fluoro-4-methane sulfonylamino-benzyl)-acetamide
3-Fluoro-4-methanesulfonylaminobenzylamine hydrochloride (21 mg, 0.08 mmol) was reacted with (6-tert-butyl-2-chloro-pyridin-3-yloxy)-acetic acid (1.0 eq, 20 mg) DMTMM (1.2 eq, 27 mg) and NMM (1.5 eq, 14 μl) in THF to give the title compound (10 mg, 28.2%) after purification by column chromatography (Hex/EtOAc=1/1).

reactant | 3-Fluoro-4-methanesulfonylaminobenzylamine hydrochloride | 0.08 mmol, 21 mg | Cl.FC=1C=C(CN)C=CC1NS(=O)(=O)C
reactant | (6-tert-butyl-2-chloro-pyridin-3-yloxy)-acetic acid | 20 mg, 1.0 eq | C(C)(C)(C)C1=CC=C(C(=N1)Cl)OCC(=O)O | C11H14ClNO3
reactant | NMM | 14 μl, 1.5 eq | CN1CCOCC1 | C5H11NO
solvent | THF | C1CCOC1 | C4H8O
product | 2-(6-tert-Butyl-2-chloro-pyridin-3-yloxy)-N-(3-fluoro-4-methane sulfonylamino-benzyl)-acetamide | 10 mg, 28.2% | C(C)(C)(C)C1=CC=C(C(=N1)Cl)OCC(=O)NCC1=CC(=C(C=C1)NS(=O)(=O)C)F | C19H23ClFN3O4S
